US08623907B2
Step 5: Preparation of 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione
To a mixture of 2,2,6,6-tetramethylpyran-3,5-dione (3.57 g, 21.00 mmol) and N,N-dimethylaminopyridine (13.50 g, 111.00 mmol) is added anhydrous chloroform (120 ml), followed by stirring at room temperature until dissolution. To this solution is added anhydrous toluene (37 ml), followed by 5-bromo-2-ethylphenyllead triacetate (10.69 g, 24.00 mmol) in one portion and the reaction mixture is heated at 80° C. for 2 hours, then allowed to stand overnight at room temperature. The mixture is diluted with dichloromethane (185 ml) and dilute aqueous hydrochloric acid (185 ml), followed by swirling for 5 minutes and filtration to remove inorganic residues (additional washing with dichloromethane). All organic fractions are combined, washed with brine, dried over anhydrous magnesium sulfate, then concentrated in vacuo to afford a crude oil which is further purified by flash column chromatography (hexane/ethyl acetate 5:1 ratio) to give the product as a yellow solid (4.47 g). Lead residues are removed by dissolving this solid in chloroform (50 ml) and stirring with 3-mercaptopropyl-functionalized silica gel (5.50 g, 1.20 mmol/g loading) overnight. After filtration and concentration 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (4.36 g) is afforded as a cream powder.

reactant | 2,2,6,6-tetramethylpyran-3,5-dione | 21.00 mmol, 3.57 g | CC1(OC(C(CC1=O)=O)(C)C)C | C9H14O3
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
reactant | toluene | 37 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-bromo-2-ethylphenyllead triacetate | 24.00 mmol, 10.69 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].BrC=1C=CC(=C(C1)[Pb+3])CC
solvent | dichloromethane | 185 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 185 ml | Cl | ClH
product | 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 4.47 g | BrC=1C=CC(=C(C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
